US09301951B2
Intermediate 3.9b: 4-(piperidin-1-yl)-2-(6-(3-(trifluoromethyl)phenoxy)pyrimidin-4-yl)-aniline
A solution of 4-(2-nitro-5-(piperidin-1-yl)phenyl)-6-(3-(trifluoromethyl)phenoxy)pyrimidine in a mixture of methanol and ethyl acetate was treated with 35 mg of 5% Pd/C and stirred for 2 h under a hydrogen atmosphere. The mixture was filtered and the solvent was evaporated. The residue was purified by chromatography to give the product as 170 mg of a yellow syrup.

reactant | 4-(2-nitro-5-(piperidin-1-yl)phenyl)-6-(3-(trifluoromethyl)phenoxy)pyrimidine | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCCCC1)C1=NC=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F | C22H19F3N4O3
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 35 mg | [Pd] | Pd
product | 4-(piperidin-1-yl)-2-(6-(3-(trifluoromethyl)phenoxy)pyrimidin-4-yl)-aniline | 170 mg | N1(CCCCC1)C1=CC(=C(N)C=C1)C1=NC=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F | C22H21F3N4O
